US04663446
N3 -(p-n-butylphenyl)guanine (BuPG)
A stirred solution of 2-bromohypoxanthine (10.8 g, 50 mmol) and p-n-butylaniline (23.5 mL, 150 mmol) in a mixture of 2-methoxyethanol (300 mL) and water (100 mL) was heated at reflux. After 2.5 h, the mixture was chilled in an ice bath, and the fine precipitate was filtered, washed with concentrated aqueous ammonia (80 mL) and methanol (3×25 mL). The product was purified by dissolving the slightly yellow precipitate in hot N sodium hydroxide (300 mL) and treatment with activated charcoal. The hot mixture was filtered, acidified with glacial acetic acid and chilled. The product was isolated by filtration, washed with methanol and dried over phosphorus pentoxide to yield 12.0 g (85%) of fine colorless crystals, identical with an authentic sample. NMR (250 MHz; Me2SO-d6) 10.45 δ(s, 1-H), 8.60 δ(s, 2-NH), 8.00 δ(s, 8-H), 7.50 δ(d, J+8.5 Hz, 2',6'-H), 7.14 δ(d, J=8.5 Hz, 3',5'-H), 2.55 δ(t, CH2), 1.56 δ(quin, CH2), 1.33 δ(sext, CH2), 0190 δ(t, CH3).

reactant | 2-bromohypoxanthine | 50 mmol, 10.8 g | BrC=1NC(C=2NC=NC2N1)=O | C5H3BrN4O
reactant | p-n-butylaniline | 150 mmol, 23.5 mL | C(CCC)C1=CC=C(N)C=C1 | C10H15N
solvent | 2-methoxyethanol | 300 mL | COCCO | C3H8O2
solvent | water | 100 mL | O | H2O
product | (p-n-butylphenyl)guanine | 12.0 g, 85% | C(CCC)C1=CC=C(C=C1)NC=1NC(C=2NC=NC2N1)=O | C15H17N5O
